### ISSUE TITLE
Update bv proofs using the more powerful bv_tac

### ISSUE THREAD

**Issue by oliver-butterley** [Beneficial-AI-Foundation/curve25519-dalek-lean-verify#442]
In `Specs/Backend/Serial/U64/Field/FieldElement51/ToBytes.lean` these three improved proofs are now possible (contribution due to miriampolzer):

```lean
theorem recompose_decomposed_limb (limb : U64) (h : limb.val < 2 ^ 51) :
  limb.val =
  limb.val % 2 ^ 8
  + 2 ^ 8 * (limb.val >>> 8 % 2 ^ 8)
  + 2 ^ 16 * (limb.val >>> 16 % 2 ^ 8)
  + 2 ^ 24 * (limb.val >>> 24 % 2 ^ 8)
  + 2 ^ 32 * (limb.val >>> 32 % 2 ^ 8)
  + 2 ^ 40 * (limb.val >>> 40 % 2 ^ 8)
  + 2 ^ 48 * (limb.val >>> 48 % 2 ^ 8)
  := by
  bv_tac 64
```

```lean
theorem recompose_decomposed_limb_split (limb : U64) (h : limb.val < 2 ^ 51) :
  limb.val <<< 4 % 2 ^ 8
  + 2 ^ 8 * (limb.val >>> 4 % 2 ^ 8)
  + 2 ^ 16 * (limb.val >>> 12 % 2 ^ 8)
  + 2 ^ 24 * (limb.val >>> 20 % 2 ^ 8)
  + 2 ^ 32 * (limb.val >>> 28 % 2 ^ 8)
  + 2 ^ 40 * (limb.val >>> 36 % 2 ^ 8)
  + 2 ^ 48 * (limb.val >>> 44 % 2 ^ 8) =
  2 ^ 4 * limb.val
  := by
  bv_tac 64
```

```lean
theorem decompose_or_limbs (limb0 limb1 : U64) (h : limb0.val < 2 ^ 51) :
  ((limb0.val >>> 48 ||| limb1.val <<< 4) % 2 ^ 8) =
  (limb0.val >>> 48 % 2 ^ 8) + ((limb1.val <<< 4) % 2 ^ 8) := by
  bv_tac 64
```

**Comment by oliver-butterley** [comment]
Implemented (or at least partially implemented) in PR #639
